US06500863B1
N-[3-(4-morpholinyl)propyl]-3-amino-6-chloro-2-hydroxybenzenesulfonamide
Following the general hydrogenation procedure outlined in example 15, crude N-[3-(4-morpholinyl)propyl]-6-chloro-2-hydroxy-3-nitrobenzenesulfonamide (1.01 g) was reduced with hydrogen and 10% Pd/C (250 mg). The crude product (890 mg) was carried onto the next step without purification. 1H NMR (MeOD-d4): δ 6.86 (m, 2H), 3.87 (m, 4H), 3.15 (m, 6H), 2.98 (t, 2H), 1.92 (m, 2H).

reactant | N-[3-(4-morpholinyl)propyl]-6-chloro-2-hydroxy-3-nitrobenzenesulfonamide | 1.01 g | N1(CCOCC1)CCCNS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])O | C13H18ClN3O6S
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 250 mg | [Pd] | Pd
product | N-[3-(4-morpholinyl)propyl]-3-amino-6-chloro-2-hydroxybenzenesulfonamide | N1(CCOCC1)CCCNS(=O)(=O)C1=C(C(=CC=C1Cl)N)O | C13H20ClN3O4S
